US05382590
The procedure is analogous to that described in Example 1, but 1.2 g of 2-(2-amino-N-phenyl-acetamido)-N-(2,4-difluorophenyl)-N-methylacetamide and 0.46 g of 3-methylphenyl isocyanate are used as the starting material. The product obtained is purified by chromatography on 70 g of silica (0.065-0.200 mm) contained in a column 2.5 cm in diameter [eluent: dichloromethane/methanol (99-1 by volume)], collecting 15 cm3 fractions. Fractions 24 to 36 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization from diisopropyl ether, 0.6 g of N-(2,4-difluorophenyl)-N-methyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide melting at 100° C. is obtained.

reactant | 2-(2-amino-N-phenyl-acetamido)-N-(2,4-difluorophenyl)-N-methylacetamide | 1.2 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)N(C)C1=C(C=C(C=C1)F)F | C17H17F2N3O2
reactant | 3-methylphenyl isocyanate | 0.46 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | N-(2,4-difluorophenyl)-N-methyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide | 0.6 g | FC1=C(C=CC(=C1)F)N(C(CN(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O)C | C25H24F2N4O3
